US06403055B1
A) L-Glutamic acid bis(1,1-dimethylethyl) ester
Acetic acid 1,1-dimethylethyl ester (1742 g; 2 L; 15 mol) (commercial product), 70% aq. perchloric acid (51 mL; 0.59 mol) and L-glutamic acid (78.8 g; 0.54 mol) (commercial product) were stirred at 25° C. over 5 days. After addition of a solution of K2CO3 (41.46 g, 0.3 mol) in H2O (140 mL) to the reaction mixture, the organic phase was separated, washed with water (2×500 mL), dried (NaSO4) and concentrated to dryness. The residue (27.2 g) was dissolved in Et2O (200 mL) and extracted with 1N HCl (2×70 mL), the combined aqueous phase was washed with Et2O (40 mL) and collected with the aqueous phases previously obtained from the first neutralization and successive washings. Addition of 10 N NaOH up to pH 8.8 led to an emulsion which was extracted with Et2O (2×600 mL). The combined organic phases were washed with H2O (250 mL), dried and evaporated to give the desired compound (57.7 g; 0.22 mol). Yield 41%.

reactant | Acetic acid 1,1-dimethylethyl ester | 15 mol, 2 L, 1742 g | CC(C)(C)OC(C)=O | C6H12O2
reactant | perchloric acid | 0.59 mol, 51 mL | Cl(=O)(=O)(=O)O | ClHO4
reactant | L-glutamic acid | 0.54 mol, 78.8 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | K2CO3 | 0.3 mol, 41.46 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | H2O | 140 mL | O | H2O
product | L-Glutamic acid bis(1,1-dimethylethyl) ester | 0.22 mol, 57.7 g, Yield 41% | CC(C)(C)OC([C@@H](N)CCC(=O)OC(C)(C)C)=O | C13H25NO4
